US07943619B2
b) [3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-yl]-methylamine
As described for example 78b, 2-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione (1.3 g, 3.68 mmol) was converted, instead of 2-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione, to the title compound (570 mg, 69%) which was obtained as a white solid. MS: m/e=224.3 [M+H]+.

reactant | 2-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | 3.68 mmol, 1.3 g | ClC=1C=CC(=NC1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C18H12ClN3O3
reactant | 2-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | FC1=CC=C(C=C1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C19H13FN2O3
product | [3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-yl]-methylamine | 570 mg, 69% | ClC=1C=CC(=NC1)C1=NOC(=C1NC)C | C10H10ClN3O
